US07763648B2
Step E. 7a-Methyl-4-[5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-pentyloxy]-hexahydro-indene-1,5-dione
Dess-Martin periodinane (10.28 g, 24.24 mmol) was added to a solution of the 4-[2-hydroxy-5-(2-methyl-[1,3]dioxolan-2-yl)-pentyloxy]-7a-methyl-hexahydro-indene-1,5-dione (7.8 g, 22.03 mmol) in dichloromethane (100 mL) at room temperature. The reaction mixture was then stirred at room temperature for 14 h. The reaction was quenched with saturated potassium bicarbonate solution (20 mL). The aqueous solution was extracted with dichloromethane (2×100 mL) and the combined organic layer was dried with magnesium sulfate. The resulting solution was filtered, concentrated and the resulting residue purified by flash chromatography using 30% ethyl acetate in hexane to yield the title compound as an oil.

reactant | Dess-Martin periodinane | 24.24 mmol, 10.28 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 4-[2-hydroxy-5-(2-methyl-[1,3]dioxolan-2-yl)-pentyloxy]-7a-methyl-hexahydro-indene-1,5-dione | 22.03 mmol, 7.8 g | OC(COC1C2CCC(C2(CCC1=O)C)=O)CCCC1(OCCO1)C | C19H30O6
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 7a-Methyl-4-[5-(2-methyl-[1,3]dioxolan-2-yl)-2-oxo-pentyloxy]-hexahydro-indene-1,5-dione | CC12CCC(C(C2CCC1=O)OCC(CCCC1(OCCO1)C)=O)=O | C19H28O6
